US04695622
From 0.63 g (1.01 mM) of carbobenzoxy-glycyl-phenylalanyl-leucyl-arginine and 0.38 g (1.11 mM) of p-nitrophenyl ester of carbobenzoxy-alanine, in a manner similar to that described hereinbefore, 0.56 g (79%) of carbobenzoxy-alanyl-glycyl-phenylalanyl-leucyl-arginine with m.p. of 147°-149° C. is obtained. [α]D25 =-4.0 (c 0.5, dimethylformamide). Rf1 =0.33 (C), Rf2 =0.35 (D), Rf3 =0.67 (chloroform:methanol: 32% acetic acid 60:45:20) (E).

reactant | carbobenzoxy-glycyl-phenylalanyl-leucyl-arginine | 1.01 mM, 0.63 g | C(=O)(OCC1=CC=CC=C1)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)O | C31H43N7O7
reactant | carbobenzoxy-alanine | C(=O)(OCC1=CC=CC=C1)N[C@@H](C)C(=O)O | C11H13NO4
product | carbobenzoxy-alanyl-glycyl-phenylalanyl-leucyl-arginine | 0.56 g, 79% | C(=O)(OCC1=CC=CC=C1)N[C@@H](C)C(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)O | C34H48N8O8
